US08232390B2
Step 5: dimethyl 14-cyclohexyl-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-7,11-dicarboxylate
To a solution of methyl 1-(2-amino-3-methoxy-3-oxopropyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate in 1,2-DCE (0.04 M), 2 eq of NaBH(OAc)3 was added and the solution stirred overnight at RT. The reaction mixture was diluted with EtOAc. The organic phase was washed with NaHCO3 (s.s.) and brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound (quant). MS (ES+) m/z 447 (M+H)+.

reactant | methyl 1-(2-amino-3-methoxy-3-oxopropyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate | NC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=O)C(=O)OC | C27H30N2O5
reactant | NaBH(OAc)3 | 2 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-DCE | 0.04 M | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | dimethyl 14-cyclohexyl-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-7,11-dicarboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CNC(C2)C(=O)OC)C=CC=C1)C(=O)OC | C27H30N2O4
